US04873237
In a manner analogous to Example 28 steps a)→d) 2-chloro-1H-naphtho[2,3-d]imidazole (7.5 g) was reacted with 2-bromoacetylpyridine (8.7 g) to give 2-chloro-1-(2-oxo-2-(2-pyridyl)ethyl)naphtho[2,3-d]imidazole (9 g). This was reacted with thiourea (5.5 g) then NH4OH solution (100 ml) to give 2-mercapto-1-(2-oxo-2-(2-pyridyl)ethyl)naphtho[2,3-d]imidazole which compound was reduced with NaBH4 to give 2-mercapto-1-(2-hydroxy-2-(2-pyridyl)ethyl)naphtho[2,3-a]imidazole (1.3 g). Treatment of this with polyphosphoric acid (23 g) gave the title compound (0.75 g.) mp 197.5°-198.5° C.

reactant | 2-chloro-1H-naphtho[2,3-d]imidazole | 7.5 g | ClC1=NC2=C(N1)C=C1C=CC=CC1=C2 | C11H7ClN2
reactant | 2-bromoacetylpyridine | 8.7 g | BrCC(=O)C1=NC=CC=C1 | C7H6BrNO
product | 2-chloro-1-(2-oxo-2-(2-pyridyl)ethyl)naphtho[2,3-d]imidazole | 9 g | ClC1=NC2=C(N1CC(C1=NC=CC=C1)=O)C=C1C=CC=CC1=C2 | C18H12ClN3O
